Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cortisone / tetracycline
 
Attending: ___.
 
Chief Complaint:
Acute Blood Loss Anemia, GI Bleeding
 
Major Surgical or Invasive Procedure:
Upper and lower endoscopy (colonoscopy)

 
History of Present Illness:
___ year old Female sent from her pulmonolgist at ___ 
after presenting with several months of dyspnea consistent with 
her chronic asthma, found to have significant hematocrit drop 4 
days prior to admission. A repeat draw the day of presentation 
which noted a 3 point drop over the 4 days, so was referred to 
the ___ ED. She is normally followed at ___. She notes 
her primary complain is dyspnea on exertion with significant 
reduction in her exercise tolerance. Her hematocrit ___ year prior 
to admission was ~32. She had an EST ___ year prior to admission 
which is reported as normal, although the report does not 
mention the METS performed. I could not find evidence in the 
Atrius ___ system of her having had a colonoscopy, however 
patient states she had her last one ___ years prior to admission 
at ___ which she states was normal other than 
diverticulosis (she mentions ___ screening).

The patient notes having completed an oral prednisone course ~3 
weeks prior to admission for her asthma which did improve her 
cough, but not her dyspnea. She notes that she gained weight 
from the steroids.

Her initial vitals in the ___ ED were 98, 101, 103/84, 20, 
100% They had ordered 2 units of PRBCs although only one was 
given prior to transport. 
 
Past Medical History:
Chronic stable asthma
Hypercholesterolemia
___
Thyroid Nodule
CKD Stage 4
Hypertension

 
Social History:
___
Family History:
Brother  ___ - Unknown Type; Hypertension 
Father  CAD/PVD; Hyperlipidemia; Hypertension 
Mother  Cancer - ___ 

 
Physical Exam:
ROS:
 GEN: - fevers, - Chills, - Weight Loss
 EYES: - Photophobia, - Visual Changes
 HEENT: - Oral/Gum bleeding
 CARDIAC: - Chest Pain, - Palpitations, - Edema
 GI: - Nausea, - Vomiting, - Diarrhea, - Abdominal Pain, - 
Constipation, - Hematochezia
 PULM: - Dyspnea, - Cough, - Hemoptysis
 HEME: - Bleeding, - Lymphadenopathy
 GU: - Dysuria, - hematuria, - Incontinence
 SKIN: - Rash
 ENDO: - Heat/Cold Intolerance
 MSK: - Myalgia, - Arthralgia, - Back Pain
 NEURO: - Numbness, - Weakness, - Vertigo, - Headache
a 10 point ROS negative except as above.
 

PHYSICAL EXAM:

VSS: 98.1, 144/73, 79, 18, 99%
 GEN: NAD
 Pain: ___
 HEENT: EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, I/VI HSM at base
 ABD: NT/ND, +BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, Motor ___ ___ flex-ext
 
Pertinent Results:
___ 07:38PM BLOOD WBC-11.7* RBC-3.01* Hgb-6.9* Hct-24.1* 
MCV-80* MCH-22.9* MCHC-28.6* RDW-20.4* RDWSD-58.1* Plt ___
___ 07:38PM BLOOD Neuts-45.6 ___ Monos-10.5 Eos-5.3 
Baso-0.6 NRBC-1.0* Im ___ AbsNeut-5.31 AbsLymp-4.34* 
AbsMono-1.23* AbsEos-0.62* AbsBaso-0.07
___ 07:38PM BLOOD ___ PTT-25.6 ___
___ 07:38PM BLOOD Glucose-97 UreaN-15 Creat-1.2* Na-139 
K-4.5 Cl-101 HCO3-24 AnGap-14
___ 07:38PM BLOOD estGFR-Using this patient's age, gender, 
and serum creatinine value of 1.2, 
estimated GFR (eGFR) is likely between 44 and 54 mL/min/1.73 m2, 

provided the serum creatinine value is stable. 
(Patients with more muscle mass and better nutritional status 
are more 
likely to be at the higher end of this range.) 
An eGFR < 60 suggests kidney disease in those below the age of 
___ 
and there may be kidney disease in those over ___.
___ 07:38PM BLOOD CK(CPK)-184
___ 07:38PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:45AM BLOOD WBC-11.0* RBC-3.66* Hgb-8.9* Hct-30.0* 
MCV-82 MCH-24.3* MCHC-29.7* RDW-19.2* RDWSD-56.5* Plt ___
___ 06:45AM BLOOD Glucose-109* UreaN-12 Creat-1.2* Na-147 
K-4.4 Cl-108 HCO3-21* AnGap-___cute Blood Loss Anemia due to GI bleeding: Hgb 6.9 from 
baseline 10.3 ___. RFs include report of prior diverticuli 
and recent corticosteroid course. Unclear how much of presenting 
SOB was related, although pt now feeling better s/p 2u. Pt with 
+Fhx of ___ ca (Mother). ___ remained stable post 
transfusion. Pt notably allergic to PPI.
She underwent EGD/colonoscopy ___ which revealed angioectasia 
in the ___ part of the duodenum (thermal therapy applied), but 
otherwise normal esophagus and stomach (biopsied)
Plan for an outpatient capsule study if recurrent bleeding as an 
outpatient
[ ] ___ CBC at 1 week f/u (NP at local clinic) 
[ ] ___ that pt tolerating oral Fe, can inc freq prn

#Chronic stable asthma; Albuterol PRN, Fluticasone.

#Essential Hypertension; Continued on Amlodipine, Toprol-XL, 
Losartan, HCTZ (we do not have her combo tablet, so separate 
dosing)

#HLD: Continue crestor

>30 minutes were spent in coordinating care and discharge 
planning.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
2. amLODIPine 5 mg PO BID 
3. Rosuvastatin Calcium 10 mg PO QPM 
4. fluticasone-vilanterol 200-25 mcg/dose inhalation DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Meclizine 25 mg PO TID:PRN vertigo 
7. Co Q-10 (coenzyme Q10) 100 mg oral DAILY 
8. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea 
10. biotin 1 mg oral DAILY 
11. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY Low Iron 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*0 
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN dyspnea  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN dyspnea  
4.  amLODIPine 5 mg PO BID  
5.  biotin 1 mg oral DAILY  
6.  Co Q-10 (coenzyme Q10) 100 mg oral DAILY  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  fluticasone-vilanterol 200-25 mcg/dose inhalation DAILY  
9.  losartan-hydrochlorothiazide 50-12.5 mg oral DAILY  
10.  Meclizine 25 mg PO TID:PRN vertigo  
11.  Metoprolol Succinate XL 100 mg PO DAILY  
12.  Rosuvastatin Calcium 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Upper gastrointestinal bleeding ___ duodenal angioectasia s/p 
thermal therapy applied)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital with shortness of breath and the 
finding of new anemia (low blood counts). 
You were transfused blood and your counts improved. 
The gastroenterologists did an upper and lower endoscopy and 
found abnormal blood vessels (arteriovenous malformations or 
AVMs) that were treated with heat therapy. 
Please continue to take all of your normal medicine, but please 
avoid NSIADs (ibuprofen, aleve etc) and alcohol.
You should have your primary care doctor check your blood counts 
once every two weeks for the next month. 
If there is evidence of an ongoing drop in your counts they 
would recommend a capsule endoscopy study to visualize the 
remaining portion of your GI tract.  
It was a pleasure taking care of you! 
 
Followup Instructions:
___